* source PWM GENERATOR
R_R1         N36490 N36818  2.5k TC=0,0 
R_R2         N36794 N36818  2.5k TC=0,0 
V_V4         VCC_ARROW 0 15
V_V5         VCC 0 -15
C_C1         N36794 N36505  2p  TC=0,0 
R_R3         N36505 N36490  1k TC=0,0 
X_U4         N38350 N36505 VCC_ARROW VCC N38449 MAX4223/MXM
V_V6         N38350 0  AC 0
+SIN 0 15 1meg 0 0 0
X_U5         0 N36794 VCC_ARROW VCC N36505 AD8009an/AD
X_U6         N36490 0 VCC_ARROW VCC N36818 AD8009an/AD
X_U8         N38350 N36505 VCC_ARROW VCC N36505 N36505 N40820 N40824 MAX913/MXM
